US05608056
(2R,4R)-1-Allyloxycarbonyl-4-hydroxy-2-[2-(1,2, 4-triazol-1-yl)ethyl]pyrrolidine (5.82 g) was reacted with triphenylphosphine (8.62 g), diethyl azodicarboxylate (5.17 ml) and thiobenzoic acid (4.64 ml) in tetrahydrofuran (58 ml) in the same manner as Preparation 3-6) to give (2R,4S)-1-allyloxycarbonyl-4-benzoylthio-2-[2-(1,2, 4-triazol-1-yl)ethyl]pyrrolidine (7.92 g) as a yellow paste.

reactant | (2R,4R)-1-Allyloxycarbonyl-4-hydroxy-2-[2-(1,2, 4-triazol-1-yl)ethyl]pyrrolidine | 5.82 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)CCN1N=CN=C1 | C12H18N4O3
reactant | triphenylphosphine | 8.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 5.17 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | thiobenzoic acid | 4.64 ml | C(C1=CC=CC=C1)(=S)O | C7H6OS
solvent | tetrahydrofuran | 58 ml | O1CCCC1 | C4H8O
product | (2R,4S)-1-allyloxycarbonyl-4-benzoylthio-2-[2-(1,2, 4-triazol-1-yl)ethyl]pyrrolidine | 7.92 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)=O)CCN1N=CN=C1 | C19H22N4O3S
